US04559403
A mixture of 289 g of alpha-(aminomethyl)-3,4-dimethoxybenzeneacetic acid ethyl ester hydrochloride, 1000 ml of methylene chloride and 1000 ml of water was cooled to 0° and adjusted to pH 9.0 with 4N sodium hydroxide. A solution of 1000 ml of methylene chloride and 3,4-dimethoxyphenyl acetic acid chloride [previously prepared by the action of 400 ml of thionyl chloride on 215 g of 3,4-dimethoxyphenyl acetic acid in 500 ml of toluene at 50° for 1 hour and evaporation to dryness] was added concurrently with 4N sodium hydroxide maintaining a pH of 7.0-8.0. Upon completion of the acid chloride addition, the pH was maintained at 9.0 for 1 hour followed by acidification to pH 1.0 with 6N hydrochloric acid. The layers were separated and the aqueous layer extracted once with methylene chloride. The combined organic layers were washed once with exceess saturated sodium bicarbonate solution, dried over sodium sulfate and evaporated in vacuo to give 430 g of 2-(3,4-dimethoxyphenyl)-3-{{[(3,4-dimethoxyphenyl)methyl]carbonyl}amino}propanoic acid ethyl ester as an oil.

reactant | alpha-(aminomethyl)-3,4-dimethoxybenzeneacetic acid ethyl ester hydrochloride | 289 g | Cl.C(C)OC(C(C1=CC(=C(C=C1)OC)OC)CN)=O
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | 3,4-dimethoxyphenyl acetic acid chloride | COC=1C=C(C=CC1OC)CC(=O)Cl | C10H11ClO3
reactant | thionyl chloride | 400 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3,4-dimethoxyphenyl acetic acid | 215 g | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 1000 ml | C(Cl)Cl | CH2Cl2
solvent | water | 1000 ml | O | H2O
solvent | methylene chloride | 1000 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,4-dimethoxyphenyl)-3-{{[(3,4-dimethoxyphenyl)methyl]carbonyl}amino}propanoic acid ethyl ester | 430 g | C(C)OC(C(CNC(=O)CC1=CC(=C(C=C1)OC)OC)C1=CC(=C(C=C1)OC)OC)=O | C23H29NO7
